US08937091B2
2-chloroethyl-2-naphthylketone 8175
2-chloroethylpropionyl chloride (2.78 g), naphthalene (2.56 g), and aluminium chloride (3.2 g) were reacted in nitrobenzene (9 mL) at 0° C., followed by treatment with hydrochloric acid to obtain the title compound (1.5 g).

reactant | 2-chloroethylpropionyl chloride | 2.78 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | naphthalene | 2.56 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | aluminium chloride | 3.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | nitrobenzene | 9 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-chloroethyl-2-naphthylketone | 1.5 g | ClCCC(=O)C1=CC2=CC=CC=C2C=C1 | C13H11ClO
